* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=6.64144957009e-12
.param C2=1.27149499472e-11
.param Csh=1.72805217334e-11
.param L1=3.00275442851e-06
.param Vsrc_amp=786.212330497
.param ne=7.79675671719e+14
.param nu_m=51783193.4122

* Sources
Vsrc src 0 SIN(0 786.212330497 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 7.35223292524
Lbulk nb ns 1.41981064526e-07
Csh ns n 1.72805217334e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
